Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed woman, with 
history
of Her2-positive breast cancer s/p mastectomy, radiotherapy, CAF
chemotherapy recurrence in ___ w/ pleural nodes and pleural
effusion. Maintained on Herceptin/Perjeta/Letrozole until ___ when diagnosed with brain mets after months of neck pain.
Rec'd whole
brain radiation with Dr. ___ is followed by Dr. ___
in ___ Oncology. She has undergone WBRT ___. 
Was seen by Dr ___ in ___ clinic ___ at which time brain
MRI showed improvement in size and # of metastatic lesions, no
new lesions. plan was for repeat study in 2 months. At rad onc
f/u on ___
she was c/o fatigue and weakness since XRT treatment, no focal
weakness. has been in bed for many hours a day, somnolence was
felt to be due to postXRT effects. 
She was seen in ___ clinic today for next Herceptin treatment,
again reporting profound fatigue. states is sleeping 12 - 14 hrs
per day.  Very weak. Also poor PO intake due to dysgeusia, lost
10 lbs since last visit. no nausea or vomiting. Last ___ she
received 2L IVF for this at ___, did feel 
better
w/ this but PO intake has not improved. 
She was referred to ED due to above symptoms.

In ED VSS, labs notable for mild anemia w/ hgb 9.5 which is
downtrending. also pyuria on UA, urine culture pending.
lytes and Cr wnl
She was given 1L NS and admitted to oncology for further eval.

on arrival pt denies any lightheadedness, syncope, falls, leg or
arm weakness or numbness. does have mild neuropathy from prior
chemo which is unchanged. no dysuria or urinary frequency. says
the only PO intake she had today was 8 oz of a kale drink which
is about what she has been taking most days. cant remember last
time she ate any solid food. denies any difficulty swallowing,
mouth sores. BM less frequent but regular, soft no constipation
or diarrhea no ab pain. no bleeding. 
denies any confusion or memory difficulty since XRT other than
occasional word finding difficulty. has had intermittent brief
HA, is not requiring any meds for HA. denies vision changes.
denies balance difficulty or vertigo. denies any back pain. does
have hx of depression but reports mood stable. she is requiring
assistance w/ shopping, preparing meals, due to 
weakness/fatigue.

REVIEW OF SYSTEMS:
GENERAL: No fever, chills, night sweats, +10 lb weight loss as
above
HEENT: No mouth sores, odynophagia, sinus tenderness, 
rhinorrhea,
or congestion. 
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations. 
PULM: No cough, shortness of breath, hemoptysis, or wheezing. 
GI: as above. No hematochezia, or melena. 
GU: No dysuria, hematuruia or frequency. 
MSK: No arthritis, arthralgias, myalgias, or bone pain. 
DERM: Denies rashes, itching, or skin breakdown. 
NEURO: No visual changes, numbness, focal weakness
HEME: No bleeding or clotting

 
Past Medical History:
Breast cancer, diagnosed ___, stage IIB adenocarcinoma right 
breast, s/p mastectomy, radiotherapy, CAF chemotherapy 
Osteoporosis  
Depression  
Seasonal allergies 
 
Social History:
___
Family History:
Father with history of stomach cancer, patient has a maternal 
aunt with breast cancer in her ___. Multiple family members on 
father's side with CAD.
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
General:  NAD, alert, normal affect
VITAL SIGNS: 98.3  112/60  89  16  99% RA
HEENT:  MMM, no OP lesions 
Neck: supple, no JVD
CV:  RR, NL S1S2 no S3S4 or MRG
PULM:  CTAB
ABD:  BS+, soft, NTND
EXT:  warm well perfused, no edema
SKIN:  No rashes or skin breakdown
NEURO:  alert and oriented x 4, PERRLA, EOMI, ___ strength
throughout no tremor/asterixis

 
Pertinent Results:
IMAGING:
IMAGING:
CXR
FINDINGS:  
 
 The lungs are clear without focal consolidation, pleural
effusion or 
 pneumothorax. Right apical scarring is again noted. There is no
pulmonary edema. The heart is normal in size, and the 
mediastinal
contours are normal.  
 Wedge deformity of the T11 vertebral body appears similar to 
the
recent chest  CT. 
 
 IMPRESSION:  
 No acute cardiopulmonary process. 

___ 08:20PM BLOOD WBC-3.5* RBC-3.72* Hgb-9.5* Hct-28.7* 
MCV-77* MCH-25.5* MCHC-33.1 RDW-14.4 RDWSD-40.3 Plt ___
___ 07:05AM BLOOD WBC-3.7* RBC-4.14 Hgb-10.3* Hct-31.5* 
MCV-76* MCH-24.9* MCHC-32.7 RDW-14.4 RDWSD-39.5 Plt ___
___ 08:20PM BLOOD Neuts-56.1 ___ Monos-8.6 Eos-2.0 
Baso-0.6 Im ___ AbsNeut-1.96 AbsLymp-1.13* AbsMono-0.30 
AbsEos-0.07 AbsBaso-0.02
___ 08:20PM BLOOD ___ PTT-31.5 ___
___ 08:20PM BLOOD Glucose-96 UreaN-7 Creat-0.6 Na-136 K-3.6 
Cl-102 HCO3-21* AnGap-17
___ 07:05AM BLOOD UreaN-4* Creat-0.6 Na-133 K-4.0 Cl-97 
HCO3-23 AnGap-17
___ 08:20PM BLOOD ALT-8 AST-16 AlkPhos-43 TotBili-0.3
___ 08:20PM BLOOD Lipase-46
___ 08:20PM BLOOD Albumin-3.6 Calcium-9.0 Phos-3.0 Mg-1.9
___ 07:05AM BLOOD Calcium-9.4 Phos-3.9 Mg-1.9
___ 06:30AM BLOOD calTIBC-244* ___ Folate-17.7 
Ferritn-58 TRF-188*
___ 06:30AM BLOOD TSH-1.6
___ 08:30PM BLOOD Lactate-1.1
 
Brief Hospital Course:
Ms ___ is a ___ yr old female with hx of recurrent HER2+ 
breast cancer w/ mets to brain completed WBRT one month ago, 
admitted after Herceptin treatment today for ongoing generalized 
weakness, lethargy and poor PO intake.

# Dysgeusia/Poor appetite
# Generalized weakness/FTT
Her weakness seems to be due to not eating for several weeks due 
to dysgeusia which started after radiation. Outpatient clinic 
notes have noted progressive weakness and failure to thrive. She 
denies headache, diplopia, nausea, vomiting, diarrhea, abdominal 
pain, or any other symptoms other than metallic/abnormal taste 
to food which started after radiation. No 
dizziness/falls/syncope. No focal deficits on exam, no signs of 
cord compression or systemic infxn. UA with mild pyuria but 
asymptomatic, cultures without growth, and without leukocytosis 
or symptoms or  fever doubt infectious process. Recent MRI and 
CT staging scans show improvement in brain mets and resolution 
of prior pleural disease thus unlikely progression of metastatic 
disease. No neuro symptoms to suggest leptomeningeal 
involvement. fatigue
is known side effect following brain XRT, also mildly anemic but 
Hcts stable. TSH WNL. ___ evaluated, pt ambulating well and safe 
without fall risk. Will treat any
possible thrush (was on steroids) with nystatin QID trial though 
do not see OP thrush on exam. Radiation oncology feels weakness 
and poor appetite expected side
effects post RT and timing supports this. Pt agrees to more 
aggressively force PO intake despite poor taste as she does not 
wish to be hospitalized for weakness/dehydration again. She was 
able to demonstrate reasonable PO intake while in house and 
declined trial of steroids or appetite stimulant (accepted rx 
for marinol to trial as outpt if changes her mind). Started 
multivitamin. Definitely would never want to have supplemental 
tube feeds of any form. Zinc level pending at time of discharge 
to be followed by oncology team as abnormal levels could be 
associated w/ taste disturbance though seems less likely. 

#Anemia - Hgb gradually downtrended over past month, likely 
nutritional. Iron studies c/w inflammatory block, B12 elevated 
not low. TSh WNL  

#Metastatic breast cancer - currently on q3 week herceptin, was 
given on day of admission. no active systemic disease on most 
recent CT chest/ab pelvis. Brain mets improved post WBRT on MRI 
few weeks ago. plan for repeat imaging in 2 months. cont on 
letrozole

#Hx neuropathy - on duloxetine (also uses for hx depression)

Greater than 30 minutes were spent in planning and execution of 
this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO 1X/WEEK (MO) 
2. DULoxetine 60 mg PO DAILY 
3. Letrozole 2.5 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. DULoxetine 60 mg PO DAILY 
2. Letrozole 2.5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Nystatin Oral Suspension 10 mL PO QID 
RX *nystatin 100,000 unit/mL 5 mL by mouth four times a day Disp 
___ Milliliter Milliliter Refills:*0
6. Alendronate Sodium 70 mg PO 1X/WEEK (MO) 
7. Dronabinol 2.5 mg PO BID 
RX *dronabinol 2.5 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Failure to thrive
Dysgeusia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with weakness and altered taste which we think 
is from radiation. your fatigue and weakness is from not eating. 
Be sure to push yourself to eat and drink enough to maintain 
your strength. Your other labs showed no issues that would be 
causing this.

Please use the nystatin swish and swallow for 3 more days to see 
if it helps with taste  alteration.

If you wish to try the marinol for appetite stimulation that is 
also a reasonable idea and we will give you a prescription.

Dr. ___ follow up on the zinc level which is pending.
 
Followup Instructions:
___